US04017492
In the manner given in Example 9, 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with α-oxopentanoic acid at room temperature to give 7-chloro-2-[(1-carboxybutylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | α-oxopentanoic acid | O=C(C(=O)O)CCC | C5H8O3
product | 7-chloro-2-[(1-carboxybutylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCC)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C20H18Cl2N4O2
